US08003649B2
10% Palladium on carbon (0.574 g, 0.54 mmol) was added to 6-[4-[4-(benzyloxy)phenoxy]piperidin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (2.53 g, 5.39 mmol) in MeOH (30 mL) under an atmosphere of hydrogen. The resulting suspension was stirred at ambient temperature for 24 hours. The reaction mixture was evaporated. The crude product was purified by flash silica chromatography, elution gradient 0 to 3% MeOH in DCM. Pure fractions were evaporated to dryness to afford 4-[[1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]oxy]phenol (1.760 g, 86%) as a gum which crystallised on standing.

reactant | 6-[4-[4-(benzyloxy)phenoxy]piperidin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 5.39 mmol, 2.53 g | C(C1=CC=CC=C1)OC1=CC=C(OC2CCN(CC2)C=2C=CC=3N(N2)C(=NN3)C(F)(F)F)C=C1 | C24H22F3N5O2
catalyst | Palladium on carbon | 0.54 mmol, 0.574 g | [Pd] | Pd
solvent | MeOH | 30 mL | CO | CH4O
product | 4-[[1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]oxy]phenol | 1.760 g, 86% | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)OC2=CC=C(C=C2)O)(F)F | C17H16F3N5O2
